US07459554B2
cis-3-(3-Dimethylaminomethyl-cyclobutyl)-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-8-ylamine:
A sealed tube containing a solution of cis-toluene-4-sulfonic acid 3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutylmethyl ester (100 mg, 0.18 mmol) in THF (3 mL) was charged with dimethylamine solution (1.8 mL, 3.6 mmol, 2.0 M in THF), sealed, and heated at 50° C. overnight. The mixture was concentrated and the residue was diluted with ethyl acetate (40 mL), washed with sat. aq. NaHCO3 (2×15 mL) and brine (2×15 mL), and dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure, and the residue was recrystallized to afford a white solid; LC-MS (ES, Pos.): m/z 428 [MH+]; 1H NMR (CDCl3, 400 MHz) δ 2.23 (s, 6H), 2.24-2.32 (m, 2H), 2.42 (d, J=6.1 Hz, 2H), 2.61-2.69 (m, 3H), 3.64 (m, 1H), 4.98 (br s, 2H, NH2), 5.15 (s, 2H), 7.00-7.04 (m, 2H), 7.12 (d, J=5.0 Hz, 1H), 7.23-7.27 (m, 2H), 7.31-7.46 (m, 6H).

reactant | cis-toluene-4-sulfonic acid 3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutylmethyl ester | 0.18 mmol, 100 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)COS(=O)(=O)C2=CC=C(C=C2)C | C31H30N4O4S
reactant | dimethylamine | 3.6 mmol, 2.0 M, 1.8 mL | CNC | C2H7N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | cis-3-(3-Dimethylaminomethyl-cyclobutyl)-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-8-ylamine | CN(C)C[C@H]1C[C@H](C1)C1=NC(=C2N1C=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C26H29N5O
